US04705782
2-Cyano-5,6-dimethoxy-indan-1-one (18.2 g) was suspended in ethanol (360 ml) under an atmosphere of nitrogen and treated with a solution of sodium borohydride (6.57 g) in water (25 ml) and ethanol (36 ml). After 11/2 hours dichloromethane (200 ml) was added. After a further 30 minutes the excess sodium borohydride was destroyed by the dropwise addition of acetic acid (2 ml) in dichloromethane (10 ml). The inorganic salts were filtered off and the filtrate was concentrated under reduced pressure then extracted into ethyl acetate (3×200 ml). The organic extracts were combined, washed with brine, dried over magnesium sulphate, filtered and evaporated to dryness to give 2-hydroxy-5,6-dimethoxyindane-2-carbonitrile as a yellow solid (17.1 g).

reactant | 2-Cyano-5,6-dimethoxy-indan-1-one | 18.2 g | C(#N)C1C(C2=CC(=C(C=C2C1)OC)OC)=O | C12H11NO3
reactant | sodium borohydride | 6.57 g | [BH4-].[Na+]
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
reactant | ethanol | 360 ml | C(C)O | C2H6O
reactant | ethanol | 36 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 2-hydroxy-5,6-dimethoxyindane-2-carbonitrile | 17.1 g | OC1(CC2=CC(=C(C=C2C1)OC)OC)C#N | C12H13NO3
